US04758579
19. 2,2-Difluoro-6-[(4,5-dimethoxy-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]benzimidazole
6.3 ml of 1N sodium hydroxide solution are added dropwise to a solution, warmed to 50° C., of 0.69 g of 2,2-difluoro-5H-[1,3]-dioxolo[4,5-f]benzimidazole-6-thiol and 0.67 g of 2-chloromethyl-4,5-dimethoxypyridinium chloride in 9 ml of ethanol and 4 ml of water in the course of one minute. On cooling the clear reaction mixture to 20° C., a colorless precipitate separates out after a short time. The mixture is stirred at 20° C. for a further 5 hours and the precipitate is filtered off with suction over a suction filter, rinsed with 1N sodium hydroxide solution and water and dried to constant weight. The beige solid is dissolved in 10 ml of methylene chloride, insoluble constituents are filtered off, the filtrate is concentrated and the residue is made to crystallize by addition of diisopropyl ether after cooling. 1.02 g (90% of theory) of the title compound of m.p. 189°-191° C. are obtained.

reactant | sodium hydroxide | 1N, 6.3 ml | [OH-].[Na+]
reactant | 2,2-difluoro-5H-[1,3]-dioxolo[4,5-f]benzimidazole-6-thiol | 0.69 g | FC1(OC=2C(=CC3=C(N=C(N3)S)C2)O1)F | C8H4F2N2O2S
reactant | 2-chloromethyl-4,5-dimethoxypyridinium chloride | 0.67 g | [Cl-].ClCC1=[NH+]C=C(C(=C1)OC)OC
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
product | 2,2-Difluoro-6-[(4,5-dimethoxy-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]benzimidazole | FC1(OC=2C(=CC3=C(N=C(N3)SCC3=NC=C(C(=C3)OC)OC)C2)O1)F | C16H13F2N3O4S
